US07183270B2
Part A. Preparation of 6-Chloro-2-trifluoromethyl-quinazolin-4-ol
2-Amino-5-chlorobenzamide (Avocado)(1.00 g, 5.86 mmol, 1.0 eq.) and ethyl trifluoroacetate (4.19 mL, 35.2 mmol, 6.0 eq.) were dissolved in 50 mL of ethanol at rt under nitrogen and followed by the addition of 3.09 M sodium ethoxide in ethanol (11.38 mL, 35.2 mmol, 6.0 eq.) The mixture was refluxed 20 hours. Cooled to rt. Added 10 mL of 10% HOAc/H2O. Solids formed which were filtered, rinsed with 5 mL H2O, then dissolved in 20 mL of EtOAc/THF. Dried and stripped in vacuo to give 1.35 g of amber solids. LCMS detects (M+H)+=249.

reactant | 2-Amino-5-chlorobenzamide | 5.86 mmol, 1.00 g, 1.0 eq. | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
reactant | ethyl trifluoroacetate | 35.2 mmol, 4.19 mL, 6.0 eq. | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium ethoxide | 3.09 M | [O-]CC.[Na+]
reactant | HOAc H2O | 10 mL | CC(=O)O.O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 35.2 mmol, 11.38 mL, 6.0 eq. | C(C)O | C2H6O
product | 6-Chloro-2-trifluoromethyl-quinazolin-4-ol | 1.35 g | ClC=1C=C2C(=NC(=NC2=CC1)C(F)(F)F)O | C9H4ClF3N2O
